US09388189B2
(S)-4-((4-Methoxybenzyl)amino)-N-(3-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-4-((4-Methoxybenzyl)amino)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxylic acid (300 mg, 0.51 mmol) was dissolved in 7 mL dimethylformamide. N,N-Diisopropylethylamine (150 μl, 1.10 mmol) and HATU (400 mg, 1.05 mmol) were added and the reaction mixture was stirred at room temperature for 30 min. Then, 3-methoxyaniline (95 μl, 0.85 mmol) was added and the reaction mixture stirred at room temperature overnight. The crude was diluted with water and extracted with ethyl acetate. The organic layer was washed with water, brine, dried over sodium sulphate and concentrated under reduced pressure. A semi-solid was obtained and purified using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to obtain 265 mg (82% yield) of the title compound. Purity 100%.

reactant | (S)-4-((4-Methoxybenzyl)amino)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxylic acid | 0.51 mmol, 300 mg | COC1=CC=C(CNC2=NC=NC(=C2C(=O)O)N[C@@H](C)C2=NN3C(C(N2C2=CC=CC=C2)=O)=C(C=C3)C)C=C1 | C28H27N7O4
reactant | N,N-Diisopropylethylamine | 1.10 mmol, 150 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 1.05 mmol, 400 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-methoxyaniline | 0.85 mmol, 95 μl | COC=1C=C(N)C=CC1 | C7H9NO
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-4-((4-Methoxybenzyl)amino)-N-(3-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 265 mg, 82% yield | COC1=CC=C(CNC2=NC=NC(=C2C(=O)NC2=CC(=CC=C2)OC)N[C@@H](C)C2=NN3C(C(N2C2=CC=CC=C2)=O)=C(C=C3)C)C=C1 | C35H34N8O4
